US04870187
Ethyl 9,9-bis(4-fluorophenyl)-5-hydroxy-8-(5-phenyl-1H-tetrazol-1-yl)-3-oxo-6,8-nonadienoate
The dianion of ethyl acetoacetate was generated by adding 0.93 mL (7.3 mmoles) of purified ethyl acetoacetate to a suspension of 0.29 g (60% by weight in oil suspension, 7.3 mmoles) of sodium hydride in tetrahydrofuran (10 mL) at 0° C. under argon followed by the addition of 2.93 mL (7.3 mmoles) of 2.5M n-butyllithium. The orange solution was stirred at 0° C. for one hour then cooled to -80° C. (dry ice-acetone). The dianion solution was added to a solution of 1.01 g (2.4 mmoles) of 5,5-bis(4-fluorophenyl)-4-(5-phenyl-1H-tetrazol-1-yl)-2,4-pentadienal in 20 mL of tetrahydrofuran at -80° C. under argon. After stirring for 10 minutes, the mixture was neutralized with 4 mL of 2M HCl and 4 mL of saturated aqueous NH4Cl solution. The desired product was extracted with ethyl acetate and purified by silica gel column chromatography using a gradient elution of ethyl acetate-hexanes to yield 0.90 g (68%) of the title compound.

reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | ethyl acetoacetate | 7.3 mmoles, 0.93 mL | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium hydride | 7.3 mmoles, 0.29 g | [H-].[Na+]
reactant | n-butyllithium | 7.3 mmoles, 2.5M, 2.93 mL | C(CCC)[Li]
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 5,5-bis(4-fluorophenyl)-4-(5-phenyl-1H-tetrazol-1-yl)-2,4-pentadienal | 2.4 mmoles, 1.01 g | FC1=CC=C(C=C1)C(=C(C=CC=O)N1N=NN=C1C1=CC=CC=C1)C1=CC=C(C=C1)F | C24H16F2N4O
reactant | HCl | 2M, 4 mL | Cl | ClH
reactant | NH4Cl | 4 mL | [NH4+].[Cl-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Ethyl 9,9-bis(4-fluorophenyl)-5-hydroxy-8-(5-phenyl-1H-tetrazol-1-yl)-3-oxo-6,8-nonadienoate | 0.90 g, 68% | FC1=CC=C(C=C1)C(=C(C=CC(CC(CC(=O)OCC)=O)O)N1N=NN=C1C1=CC=CC=C1)C1=CC=C(C=C1)F | C30H26F2N4O4
